US08633183B2
A-11) 5-Trimethylsilanylethynyl-pyridin-2-ylamine
The title compound is synthesized according to general procedure GP2 starting from 5.0 g (28.9 mmol) 5-bromo-pyridin-2-ylamine and 5.7 mL (40.5 mmol) 1-trimethylsilyl-ethyne using 168 mg (0.88 mmol) CuI, 758 mg (2.9 mmol) triphenylphosphine, 533 mg (0.76 mmol) PdCl2(PPh3)2 and 40 mL (288 mmol) triethylamine in 40 mL dry THF. For the work-up the reaction mixture is diluted with ethyl acetate and small amounts of cyclohexane, the organic phase is extracted with water and brine. The product is purified by chromatography on silica gel using hexane/ethyl acetate (10/1 v/v). Yield: 5.0 g (91%).

reactant | 5-bromo-pyridin-2-ylamine | 28.9 mmol, 5.0 g | BrC=1C=CC(=NC1)N | C5H5BrN2
reactant | 1-trimethylsilyl-ethyne | 40.5 mmol, 5.7 mL, 168 mg | C[Si](C#C)(C)C | C5H10Si
reactant | triphenylphosphine | 2.9 mmol, 758 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 288 mmol, 40 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | PdCl2(PPh3)2 | 0.76 mmol, 533 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-Trimethylsilanylethynyl-pyridin-2-ylamine | C[Si](C)(C)C#CC=1C=CC(=NC1)N | C10H14N2Si
